data/oMe_Silver.jsonl
{"reaction_id": "NR-325_1-CC(C)C_2-c1ccc(c2ccccc2)cc1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(CC(C)C)c1ccc(c2ccccc2)cc1","NN","[OH-]"],"products_smiles": ["C(CC(C)C)c1ccc(c2ccccc2)cc1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(CC(C)C)c1ccc(c2ccccc2)cc1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(CC(C)C)c1ccc(c2ccccc2)cc1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(CC(C)C)c1ccc(c2ccccc2)cc1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](CC(C)C)c1ccc(c2ccccc2)cc1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)c1ccc(c2ccccc2)cc1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
